US07662975B2
To a solution of 4-methyl-2-oxo-2H-chromene-7-carbonitrile (76 mg, 0.427 mmol) in dry THF (4 mL) at −20° C. was added drop wise 1.0 M LiHMDS solution in THF (0.52 mL). After 30 minutes 2,4-dichloro-benzaldehyde (60 μL) was added slowly into the reaction mixture and then stirred for 1 hour. The reaction mixture was then quenched with saturated aqueous ammonium chloride (2 mL) and extracted with ethyl acetate (50 mL). The organic layer was separated and dried over sodium sulfate, then concentrated and purified on silica gel eluted with 30% ethyl acetate in hexanes to yield 4-[2-(2,4-dichloro-phenyl)-2-hydroxy-ethyl]-2-oxo-2H-chromene-7-carbonitrile as a yellow solid.

reactant | 4-methyl-2-oxo-2H-chromene-7-carbonitrile | 0.427 mmol, 76 mg | CC1=CC(OC2=CC(=CC=C12)C#N)=O | C11H7NO2
reactant | LiHMDS | 1.0 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2,4-dichloro-benzaldehyde | 60 μL | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.52 mL | C1CCOC1 | C4H8O
product | 4-[2-(2,4-dichloro-phenyl)-2-hydroxy-ethyl]-2-oxo-2H-chromene-7-carbonitrile | ClC1=C(C=CC(=C1)Cl)C(CC1=CC(OC2=CC(=CC=C12)C#N)=O)O | C18H11Cl2NO3
